US08809369B2
A mixture of 2-amino-5-fluoro-benzoic acid methyl ester (12.1 g, 71.4 mmol), 3-bromo-benzaldehyde (13.2 g, 71.4 mmol) and ytterbium(III) triflate hydrate (4.4 g, 71.4 mmol) in acetonitrile (200 mL) was cooled to 0° C. in a sealed reaction bottle. Then a cooled solution of isobutene (28 g, 500 mmol) was added into. The reaction mixture was heated to 90° C. and stirred for 12 h. The solvent was removed in vacuo and the residue was purified on flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company) (20% ethyl acetate/hexanes) to afford 2-(3-bromo-phenyl)-6-fluoro-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (16 g, 57%) as a white solid: MS (ESI) M+1=392.1.

reactant | 2-amino-5-fluoro-benzoic acid methyl ester | 71.4 mmol, 12.1 g | COC(C1=C(C=CC(=C1)F)N)=O | C8H8FNO2
reactant | 3-bromo-benzaldehyde | 71.4 mmol, 13.2 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | ytterbium(III) triflate hydrate | 71.4 mmol, 4.4 g | O.[O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
reactant | isobutene | 500 mmol, 28 g | C=C(C)C | C4H8
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 2-(3-bromo-phenyl)-6-fluoro-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 16 g, 57% | COC(=O)C=1C=C(C=C2C(CC(NC12)C1=CC(=CC=C1)Br)(C)C)F | C19H19BrFNO2
